US07750002B2
Amine preparation: To a solution of 4-piperidine ethanol (540 mg) in MeCN (8 mL) was added triethylamine (0.70 mL) followed by tert-butyl dicarbonate (1.00 g). The mixture was stirred at room temperature for 22 h and partitioned between 0.5 M hydrochloric acid and ethyl acetate. The organic layer was washed with brine, dried (MgSO4) and the solvent evaporated to give 4-(2-hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (897 mg). This was dissolved in THF (14 mL) and sodium hydride added (172 mg; 60% dispersion in mineral oil) at 0° C. After 30 min iodomethane (0.97 mL) was added and the mixture stirred for 22 h. The mixture was diluted with ethyl acetate and washed with water, brine and dried (MgSO4). The solvent was evaporated and the residue purified by flash chromatography to give 4-(2-methoxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (724 mg). To a solution of 4-(2-methoxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (284 mg) in DCM (5 mL) was added 2M hydrogen chloride in diethyl ether (5.0 mL) and the mixture stirred for 21 h. The solvent was evaporated to give the desired amine as a white solid.

reactant | 4-piperidine ethanol | 540 mg | N1CCC(CC1)CCO | C7H15NO
reactant | triethylamine | 0.70 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl dicarbonate | 1.00 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | MeCN | 8 mL | CC#N | C2H3N
product | 4-(2-hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 897 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
